US09416125B2
Preparation of ethyl 4-({2-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-5-hydroxypyrimidin-4-yl}amino)nicotinate
3.00 g of formic acid—4-amino-2-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]pyrimidin-5-ol (1:1) 1-8-1 (9.22 mmol, 1.00 eq.) were dissolved in 300 mL DMF, 6.37 g potassium carbonate (46.1 mmol, 5.00 eq) were added and under nitrogen atmosphere 2.05 g ethyl 4-chloronicotinate hydrochloride (1:1) (9.22 mmol, 1.00 eq.) were added. The reaction mixture was stirred at 50° C. over night, filtered and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography twice to provide 100 mg (0.21 mmol, 2.2%) of analytically pure target compound.

reactant | formic acid 4-amino-2-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]pyrimidin-5-ol | 3.00 g | C(=O)O.NC1=NC(=NC=C1O)C=1C2=C(N(N1)CC1=C(C=CC=C1)F)CCC2
reactant | potassium carbonate | 46.1 mmol, 6.37 g, 5.00 eq | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-chloronicotinate hydrochloride | 9.22 mmol, 2.05 g, 1.00 eq. | Cl.ClC1=CC=NC=C1C(=O)OCC
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | ethyl 4-({2-[1-(2-fluorobenzyl)-1,4,5,6-tetrahydrocyclopenta[c]pyrazol-3-yl]-5-hydroxypyrimidin-4-yl}amino)nicotinate | FC1=C(CN2N=C(C3=C2CCC3)C3=NC=C(C(=N3)NC3=CC=NC=C3C(=O)OCC)O)C=CC=C1 | C25H23FN6O3
